Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Codeine / Percocet / Neomycin / Darvocet-N 100
 
Attending: ___
 
Major Surgical or Invasive Procedure:
none 

attach
 
Pertinent Results:
___ 12:50PM BLOOD WBC-8.4 RBC-3.68* Hgb-10.4* Hct-34.0 
MCV-92 MCH-28.3 MCHC-30.6* RDW-13.7 RDWSD-46.8* Plt ___
___ 12:50PM BLOOD ___ PTT-43.0* ___
___ 12:50PM BLOOD Glucose-140* UreaN-22* Creat-1.5* Na-140 
K-4.8 Cl-104 HCO3-23 AnGap-13
___ 10:19PM BLOOD D-Dimer-456
___ 07:55AM BLOOD CK(CPK)-150
___ 07:53PM BLOOD ALT-24 AST-30 AlkPhos-74 TotBili-0.2
___ 07:53PM BLOOD Lipase-25
___ 07:55AM BLOOD CK-MB-4 cTropnT-<0.01 proBNP-285
___ 12:50PM BLOOD Calcium-9.3 Phos-4.1 Mg-1.9
___ 08:25PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-6.5 
Leuks-TR*
___ 08:25PM URINE RBC-1 WBC-4 Bacteri-FEW* Yeast-NONE Epi-1 
RenalEp-<1

TTE 
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler.
The estimated right atrial pressure is ___ mmHg. There is focal 
non-obstructive hypertrophy of the basal
septum with a normal cavity size. There is normal regional and 
global left ventricular systolic function. The
visually estimated left ventricular ejection fraction is >=65%. 
There is no resting left ventricular
outflow tract gradient. Normal right ventricular cavity size 
with normal free wall motion. Tricuspid annular
plane systolic excursion (TAPSE) is normal. The aortic sinus 
diameter is normal for gender with a normal
ascending aorta diameter for gender. The aortic arch diameter is 
normal with a normal descending aorta
diameter. There is no evidence for an aortic arch coarctation. 
The aortic valve leaflets (3) are mildly
thickened. There is minimal aortic valve stenosis. There is no 
aortic regurgitation. The mitral valve leaflets are
mildly thickened with no mitral valve prolapse. There is trivial 
mitral regurgitation. The pulmonic valve leaflets
are normal. The tricuspid valve leaflets appear structurally 
normal. There is physiologic tricuspid regurgitation.
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/
global biventricular systolic function. Minimal aortic stenosis.
Compared with the prior TTE (images reviewed) of ___ , 
minimal aortic stenosis seen otherwise
similar.

EXAMINATION:  CT ABD AND PELVIS WITH CONTRAST
 
INDICATION:  ___ with lower abdominal tenderness

TECHNIQUE:  Single phase contrast: MDCT axial images were 
acquired through the
abdomen and pelvis following intravenous contrast 
administration.
Oral contrast was administered.
Coronal and sagittal reformations were performed and reviewed on 
PACS.
 
COMPARISON:  CT abdomen pelvis ___.
 
FINDINGS: 
 
LOWER CHEST: Similar interval appearance of pulmonary micro 
nodules at the
lung bases which are nonspecific and may be infectious, 
inflammatory or the
sequelae of aspiration.  No pleural effusion.  The heart size is 
normal.
 
ABDOMEN:
 
HEPATOBILIARY: Liver demonstrates homogeneous attenuation 
throughout without
evidence of suspicious focal lesion.  There is minimal 
intrahepatic biliary
ductal dilatation, grossly similar from prior.  The gallbladder 
is not
visualized.  There is no extrahepatic biliary ductal dilatation 
for patient
age.  No perihepatic free fluid.
 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic
stranding.
 
SPLEEN: The spleen shows normal size and attenuation throughout, 
without
evidence of focal lesions.
 
ADRENALS: The right and left adrenal glands are normal in size 
and shape.
 
URINARY: The kidneys are of normal symmetric size with normal 
nephrograms. 
There are no suspicious renal lesions.  Subcentimeter 
hypodensities small to
characterize and nonspecific cortical irregularities are again 
noted.  No
perinephric abnormality.  There are extrarenal pelvises 
bilaterally with
fullness of the right collecting system but no overt 
hydronephrosis.  There is
prominence of the right ureter particularly in the right mid 
abdomen, favored
to represent peristalsis.  No obstructing renal stones are seen.
 
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate
normal caliber, wall thickness, and enhancement throughout. 
There is sigmoid
diverticulosis without evidence of wall thickening or fat 
stranding.  No free
fluid within the abdomen or pelvis.  There is a moderate colonic 
stool burden.
 
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no
free fluid in the pelvis.
 
REPRODUCTIVE ORGANS: The uterus is not visualized. No adnexal 
abnormality is
seen.
 
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There
is no pelvic or inguinal lymphadenopathy.  Incidental note is 
again made of a
few calcified mesenteric lymph nodes.
 
VASCULAR: There is no abdominal aortic aneurysm.  Extensive 
atherosclerotic
disease is noted.
 
BONES: There is multilevel vertebral body height loss involving 
the
thoracolumbar spine, similar in overall appearance from prior.  
0.4 cm
retrolisthesis of L4 on L5 is presumably degenerative in 
unchanged.  Prior
laminectomy changes are noted from L3 through L5.
 
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits.
 
IMPRESSION:
 
 
1. No acute process in the abdomen or pelvis to explain the 
patient's
symptoms.
2. Stable interval appearance of multiple ___ opacities 
at the lung
bases which are nonspecific and may be infectious, inflammatory 
or the
sequelae of prior aspiration.
 
Brief Hospital Course:
Ms. ___ is a ___ female with CAD, atrial fibrillation 
on Coumadin, HTN, DM last HgbA1C was 9.2 in ___  who 
presents with vague symptoms including dizziness, 
lightheadedness, dyspnea on exertion, pelvic pain, lower back 
pain and constipation. 
Her pelvic pain and constipation was improved with bowel meds 
Her dyspnea on exertion and lightheadedness improved with 
fluids. Her DOE was her interpretation of feeling weak when she 
would stand up to walk. 

#) Orthostasis
Patient has chronic orthostatic hypotension and HTN. She has 
labile BPs. Only on amlodipine 2.5 at home, but when stopped her 
systolic rose to 180s, although they did resolve on their own. 
She has low PO intake, and had prior admission for orthostasis 
that improved with fluids. She is also on psych meds which can 
cause dizziness and orthostasis. 
Did not change psych meds because she is stable on them from 
psychiatric point of view. 
She was given 3L NS while inpatient and felt lightheadedness 
improved. Giving her fluids was delayed by report of dyspnea. 
Cardiology was called and she had a TTE which was normal after 
which she was given fluids. 

#Type 2 Diabetes on insulin, uncontrolled
Patient with frequent hypo/hyperglycemia. Currently has 
freestyle ___ glucose monitor but left receiver at home. She 
was continued on her home regimen with stable sugars, except for 
2 instance of asymptomatic hypoglycemia that resolved quickly 
with juice. 

#Atrial fibrillation on Warfarin:
CHA2DS2VASC score = 6 (Age-2, HTN-1, DM-1, VASC-1, female-1)
She was continued on warfarin here. Dose was reduced slightly 
because of elevated INR. 

#Constipation
Patient manually disempacted on admission. She was started on a 
bowel regimen.
CT A/P on admission was normal. 
Patient expressed concern over her history of bladder cancer 
which a small transitional cell tumor which was removed many 
years ago. CT A/P did not show any signs of masses.  

#) CKD 
Cr remained stable at 1.5. 
 
Transitional issues: 
[ ] For orthostasis continue to encourage PO intake and can try 
thigh high compression stockings as outpatient 
[ ] continue to monitor constipation 
[ ] can check INR on ___ - goal is ___ for afib (normally 
takes 5 mg at night)
[ ] consider changing coumadin to DOAC 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. BusPIRone 15 mg PO DAILY 
4. BusPIRone 10 mg PO Q NOON 
5. BusPIRone 10 mg PO QHS 
6. DULoxetine ___ 60 mg PO DAILY 
7. Tresiba FlexTouch U-100 (insulin degludec) 100 unit/mL (3 mL) 
subcutaneous DAILY 
8. Levothyroxine Sodium 50 mcg PO DAILY 
9. Tradjenta (linaGLIPtin) 5 mg oral DAILY 
10. LORazepam 0.5 mg PO DAILY:PRN anxiety 
11. melatonin 5 mg oral QHS 
12. Pantoprazole 40 mg PO Q12H 
13. Warfarin 5 mg PO DAILY16 
14. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
15. Aspirin 81 mg PO DAILY 
16. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
17. Vitamin D 400 UNIT PO DAILY 
18. Miconazole Powder 2% 1 Appl TP BID:PRN rash 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram 1 dose by mouth once a day 
Disp #*15 Packet Refills:*0 
3.  Warfarin 4 mg PO DAILY16  
4.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
5.  amLODIPine 2.5 mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  BusPIRone 15 mg PO DAILY  
9.  BusPIRone 10 mg PO Q NOON  
10.  BusPIRone 10 mg PO QHS  
11.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
12.  DULoxetine ___ 60 mg PO DAILY  
13.  Levothyroxine Sodium 50 mcg PO DAILY  
14.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
15.  melatonin 5 mg oral QHS  
16.  Miconazole Powder 2% 1 Appl TP BID:PRN rash  
17.  Pantoprazole 40 mg PO Q12H  
18.  Tradjenta (linaGLIPtin) 5 mg oral DAILY  
19.  Tresiba FlexTouch U-100 (insulin degludec) 100 unit/mL (3 
mL) subcutaneous DAILY  
20.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
orthostatic hypotension 
constipation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for shortness of breath. 

You were seen by the cardiologists, and you had an ultrasound of 
your heart which showed normal heart function. 

You also felt lightheaded which improved with fluids. 

You also had constipation which improved with medications. 
 
Followup Instructions:
___